US05312840
N-Adamantan-1-yl-N'-cyclohexylguanidine-HCl
Adamantan-1-ylcyanamide (514 mg, 2.92 mmol), and cyclohexylamine hydrochloride (398 mg, 2.93 mmol) were finely ground together, and heated at 200° C. for 10 min. The resultant glassy solid was pulverized, and extracted twice with 50 ml boiling 5% HCl. The insoluble material was filtered, and dried. 346 mg, mp 264-270 (p.h.b. 240° C.). On cooling the combined aqueous extracts to 25°, a white ppt. formed, and was filtered off, 56 mg. Combined crude yield: 44%. Crystallization of a 50 mg sample of the crude product from EtOH/Et2O afforded white needles (25 mg, mp 269°-271° C. (p.h.b. 240°), lit. 268°-269° C.). 1H (CD3OD) 1.208-1.474 (m, 5H), 1.744 (s, 9H), 1.967 (s, 8H), 2.119 (5, 3H), 3.434 (m, 1H), 13C (CD3OD) (broad band decoupled) 25.55, 26.26, 30.96, 33.74, 36.74, 42.73.

reactant | Adamantan-1-ylcyanamide | 2.92 mmol, 514 mg | C12(CC3CC(CC(C1)C3)C2)NC#N | C11H16N2
reactant | cyclohexylamine hydrochloride | 2.93 mmol, 398 mg | Cl.C1(CCCCC1)N
product | N-Adamantan-1-yl-N'-cyclohexylguanidine-HCl | Cl.C12(CC3CC(CC(C1)C3)C2)NC(=N)NC2CCCCC2 | InChI=1S/C17H29N3.ClH/c18-16(19-15-4-2-1-3-5-15)20-17-9-12-6-13(10-17)8-14(7-12)11-17;/h12-15H,1-11H2,(H3,18,19,20);1H
